* Z:\mnt\design.r\spice\examples\1016.asc
XU1 +V N003 N001 0 0 0 N002 OUT LT1016
V1 +V 0 PWL(0 0 .5u 5)
R1 N002 N001 2K
C1 N001 0 200p
R2 N003 0 4K
R3 +V N003 4K
C2 N003 N004 820p
R4 N004 0 22
C§Y1 N002 N003 .32p Rser=45 Lser=.78m Cpar=18p
.tran 10u
* 10MHz
* 10MHz to 25MHz Crystal Oscillator
.lib LTC.lib
.backanno
.end
